*Murata Power Solutions Inductors
*
*For more information on our parts visit http://www.murata-ps.com/
*
*Disclaimer:
*
*The figures have been calculated accurately based on assumptions
*that resemble the standard operating conditions.
*Murata Power Solutions will not be held responsible for
*any changes made to the values of the SPICE models that would
*invalidate the original calculations.


*SPICE model of 1410313C from the 1400 series.
.SUBCKT 1410313C 1 2
R1 3 2 0.007
L1 1 3 0.00001

.ENDS 1410313C
*SPICE model of 1410454C from the 1400 series.
.SUBCKT 1410454C 1 2
R1 3 2 0.042
L1 1 3 0.0001

.ENDS 1410454C
*SPICE model of 1410460C from the 1400 series.
.SUBCKT 1410460C 1 2
R1 3 2 0.033
L1 1 3 0.0001

.ENDS 1410460C
*SPICE model of 1410478C from the 1400 series.
.SUBCKT 1410478C 1 2
R1 3 2 0.04
L1 1 3 0.0001

.ENDS 1410478C
*SPICE model of 1410516C from the 1400 series.
.SUBCKT 1410516C 1 2
R1 3 2 0.419
L1 1 3 0.001

.ENDS 1410516C
*SPICE model of 1410517C from the 1400 series.
.SUBCKT 1410517C 1 2
R1 3 2 0.336
L1 1 3 0.001

.ENDS 1410517C
*SPICE model of 1410524C from the 1400 series.
.SUBCKT 1410524C 1 2
R1 3 2 0.277
L1 1 3 0.001

.ENDS 1410524C
*SPICE model of 1410604C from the 1400 series.
.SUBCKT 1410604C 1 2
R1 3 2 4.34
L1 1 3 0.01

.ENDS 1410604C
*SPICE model of 1410605C from the 1400 series.
.SUBCKT 1410605C 1 2
R1 3 2 3.394
L1 1 3 0.01

.ENDS 1410605C
*SPICE model of 1410606C from the 1400 series.
.SUBCKT 1410606C 1 2
R1 3 2 2.294
L1 1 3 0.01

.ENDS 1410606C
*SPICE model of 1415312C from the 1400 series.
.SUBCKT 1415312C 1 2
R1 3 2 0.009
L1 1 3 0.000015

.ENDS 1415312C
*SPICE model of 1415440C from the 1400 series.
.SUBCKT 1415440C 1 2
R1 3 2 0.069
L1 1 3 0.00015

.ENDS 1415440C
*SPICE model of 1415449C from the 1400 series.
.SUBCKT 1415449C 1 2
R1 3 2 0.051
L1 1 3 0.00015

.ENDS 1415449C
*SPICE model of 1415465C from the 1400 series.
.SUBCKT 1415465C 1 2
R1 3 2 0.042
L1 1 3 0.00015

.ENDS 1415465C
*SPICE model of 1415513C from the 1400 series.
.SUBCKT 1415513C 1 2
R1 3 2 0.63
L1 1 3 0.0015

.ENDS 1415513C
*SPICE model of 1415514C from the 1400 series.
.SUBCKT 1415514C 1 2
R1 3 2 0.518
L1 1 3 0.0015

.ENDS 1415514C
*SPICE model of 1415517C from the 1400 series.
.SUBCKT 1415517C 1 2
R1 3 2 0.374
L1 1 3 0.0015

.ENDS 1415517C
*SPICE model of 1415604C from the 1400 series.
.SUBCKT 1415604C 1 2
R1 3 2 4.912
L1 1 3 0.015

.ENDS 1415604C
*SPICE model of 1415605C from the 1400 series.
.SUBCKT 1415605C 1 2
R1 3 2 3.74
L1 1 3 0.015

.ENDS 1415605C
*SPICE model of 1422311C from the 1400 series.
.SUBCKT 1422311C 1 2
R1 3 2 0.011
L1 1 3 0.000022

.ENDS 1422311C
*SPICE model of 1422435C from the 1400 series.
.SUBCKT 1422435C 1 2
R1 3 2 0.096
L1 1 3 0.00022

.ENDS 1422435C
*SPICE model of 1422441C from the 1400 series.
.SUBCKT 1422441C 1 2
R1 3 2 0.073
L1 1 3 0.00022

.ENDS 1422441C
*SPICE model of 1422455C from the 1400 series.
.SUBCKT 1422455C 1 2
R1 3 2 0.062
L1 1 3 0.00022

.ENDS 1422455C
*SPICE model of 1422509C from the 1400 series.
.SUBCKT 1422509C 1 2
R1 3 2 0.916
L1 1 3 0.0022

.ENDS 1422509C
*SPICE model of 1422512C from the 1400 series.
.SUBCKT 1422512C 1 2
R1 3 2 0.649
L1 1 3 0.0022

.ENDS 1422512C
*SPICE model of 1422514C from the 1400 series.
.SUBCKT 1422514C 1 2
R1 3 2 0.622
L1 1 3 0.0022

.ENDS 1422514C
*SPICE model of 1422604C from the 1400 series.
.SUBCKT 1422604C 1 2
R1 3 2 6.962
L1 1 3 0.022

.ENDS 1422604C
*SPICE model of 1430430C from the 1400 series.
.SUBCKT 1430430C 1 2
R1 3 2 0.14
L1 1 3 0.0003

.ENDS 1430430C
*SPICE model of 1430433C from the 1400 series.
.SUBCKT 1430433C 1 2
R1 3 2 0.1
L1 1 3 0.0003

.ENDS 1430433C
*SPICE model of 1430450C from the 1400 series.
.SUBCKT 1430450C 1 2
R1 3 2 0.08
L1 1 3 0.0003

.ENDS 1430450C
*SPICE model of 1433393C from the 1400 series.
.SUBCKT 1433393C 1 2
R1 3 2 0.015
L1 1 3 0.000033

.ENDS 1433393C
*SPICE model of 1433428C from the 1400 series.
.SUBCKT 1433428C 1 2
R1 3 2 0.15
L1 1 3 0.00033

.ENDS 1433428C
*SPICE model of 1433433C from the 1400 series.
.SUBCKT 1433433C 1 2
R1 3 2 0.107
L1 1 3 0.00033

.ENDS 1433433C
*SPICE model of 1433445C from the 1400 series.
.SUBCKT 1433445C 1 2
R1 3 2 0.091
L1 1 3 0.00033

.ENDS 1433445C
*SPICE model of 1433507C from the 1400 series.
.SUBCKT 1433507C 1 2
R1 3 2 1.428
L1 1 3 0.0033

.ENDS 1433507C
*SPICE model of 1433510C from the 1400 series.
.SUBCKT 1433510C 1 2
R1 3 2 1.992
L1 1 3 0.0033

.ENDS 1433510C
*SPICE model of 1433512C from the 1400 series.
.SUBCKT 1433512C 1 2
R1 3 2 0.861
L1 1 3 0.0033

.ENDS 1433512C
*SPICE model of 1447383C from the 1400 series.
.SUBCKT 1447383C 1 2
R1 3 2 0.019
L1 1 3 0.000047

.ENDS 1447383C
*SPICE model of 1447385C from the 1400 series.
.SUBCKT 1447385C 1 2
R1 3 2 0.021
L1 1 3 0.000047

.ENDS 1447385C
*SPICE model of 1447423C from the 1400 series.
.SUBCKT 1447423C 1 2
R1 3 2 0.222
L1 1 3 0.00047

.ENDS 1447423C
*SPICE model of 1447427C from the 1400 series.
.SUBCKT 1447427C 1 2
R1 3 2 0.149
L1 1 3 0.00047

.ENDS 1447427C
*SPICE model of 1447440C from the 1400 series.
.SUBCKT 1447440C 1 2
R1 3 2 0.125
L1 1 3 0.00047

.ENDS 1447440C
*SPICE model of 1447506C from the 1400 series.
.SUBCKT 1447506C 1 2
R1 3 2 2.2
L1 1 3 0.0047

.ENDS 1447506C
*SPICE model of 1447508C from the 1400 series.
.SUBCKT 1447508C 1 2
R1 3 2 1.436
L1 1 3 0.0047

.ENDS 1447508C
*SPICE model of 1447509C from the 1400 series.
.SUBCKT 1447509C 1 2
R1 3 2 1.25
L1 1 3 0.0047

.ENDS 1447509C
*SPICE model of 1468362C from the 1400 series.
.SUBCKT 1468362C 1 2
R1 3 2 0.032
L1 1 3 0.000068

.ENDS 1468362C
*SPICE model of 1468373C from the 1400 series.
.SUBCKT 1468373C 1 2
R1 3 2 0.022
L1 1 3 0.000068

.ENDS 1468373C
*SPICE model of 1468420C from the 1400 series.
.SUBCKT 1468420C 1 2
R1 3 2 0.276
L1 1 3 0.00068

.ENDS 1468420C
*SPICE model of 1468422C from the 1400 series.
.SUBCKT 1468422C 1 2
R1 3 2 0.226
L1 1 3 0.00068

.ENDS 1468422C
*SPICE model of 1468431C from the 1400 series.
.SUBCKT 1468431C 1 2
R1 3 2 0.173
L1 1 3 0.00068

.ENDS 1468431C
*SPICE model of 1468505C from the 1400 series.
.SUBCKT 1468505C 1 2
R1 3 2 2.81
L1 1 3 0.0068

.ENDS 1468505C
*SPICE model of 1468507C from the 1400 series.
.SUBCKT 1468507C 1 2
R1 3 2 2.214
L1 1 3 0.0068

.ENDS 1468507C
*SPICE model of 1468508C from the 1400 series.
.SUBCKT 1468508C 1 2
R1 3 2 1.884
L1 1 3 0.0068

.ENDS 1468508C
